datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([O:2][O:3][H:11])[C:4]([C:5]([H:13])([H:14])[H:15])([O:6][O:7][H:16])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1](=[O:2])[C:4]([C:5]([H:13])([H:14])[H:15])([O:6][O:7][H:16])[H:12])([H:8])([H:9])[H:10].[O:3][H:11],6.276
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]2([H:13])[C:4]([H:14])=[C:5]([H:15])[C:6]([H:16])=[C:7]([H:17])[C:8]([H:18])([H:19])[C:9]12[H:20]>>[C:0]1([H:10])=[C:9]([H:20])[C:8]([H:18])([H:19])[C:7]([H:17])=[C:6]([H:16])[C:5]([H:15])=[C:4]([H:14])[C:3]([H:13])[C:2]([H:12])=[C:1]1[H:11],170.2888
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6]([C:7](=[C:8]([H:21])[H:22])[H:20])=[C:9]([C:10]([H:23])([H:24])[H:25])[C:11]([H:26])([H:27])[H:28])([H:18])[H:19])[H:17])[H:16])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([H:15])[C:3]([H:16])=[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([C:7](=[C:8]([H:21])[H:22])[H:20])[C:9]1([C:10]([H:23])([H:24])[H:25])[C:11]([H:26])([H:27])[H:28])[H:14])([H:12])[H:13],123.051
[C:0]([O:1][O:2][H:6])([H:3])([H:4])[H:5].[O:7][H:8]>>[C:0]([O:1][O:2][H:6])([H:4])[H:5].[H:3][O:7][H:8],-1.079472
[H:0].[N:1][H:2]>>[H:0][H:2].[N:1],126.666
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[H:6]>>[C:0]([O:1][H:5])([H:3])[H:4].[H:2][H:6],18.614616
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[c:12]1([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]1[H:23]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:18])[H:7])([H:5])[H:6].[c:12]1[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]1[H:23],165.603
[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])[H:4].[C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])([H:4])[H:13].[C:8](=[C:9]=[C:10]([H:14])[H:15])([H:11])[H:12],25.104
[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([H:13])[c:5]([O:6][H:14])[c:7]1[H:15])([H:8])([H:9])[H:10].[C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24]>>[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([H:13])[c:5]([O:6])[c:7]1[H:15])([H:8])([H:9])[H:10].[H:14][C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24],39.748
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[H:13])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[O:5][O:6][H:17],63.1784
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[H:10]>>[C:0](#[C:1][C:2]=[C:3]([C:4]#[C:5][H:9])[H:8])[H:6].[H:7][H:10],38.66016
[C:0]([N:1]=[O:2])([H:3])([H:4])[H:5].[H:6]>>[C:0]([N:1]=[O:2])([H:4])[H:5].[H:3][H:6],1.581552
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[H:12])([H:9])([H:10])[H:11]>>[C:0]([O:1])([H:2])([H:3])[H:4].[H:5][C:7]([C:6]([H:9])([H:10])[H:11])([C:8]([H:13])([H:14])[H:15])[H:12],43.2207
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[N:14]([H:15])[H:16]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:4][N:14]([H:15])[H:16],41.29608
[C:0]([N:1][H:5])([H:2])([H:3])[H:4].[N:6]([H:7])[H:8]>>[C:0]([N:1]([H:5])[N:6]([H:7])[H:8])([H:2])([H:3])[H:4],0.16736
[C:4]([H:5])([H:6])[H:7].[N:0](=[N:1][H:3])[H:2]>>[H:2][C:4]([H:5])([H:6])[H:7].[N:0]=[N:1][H:3],12.4265
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[S:7]([C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])[H:16])[H:15]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:8]([S:7][H:15])([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])[H:16],52.7184
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21]([c:22]1[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]1[H:34])([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[C:21]([c:22]1[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]1[H:34])([H:28])[H:29])[H:11],44.0157
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](=[C:6]=[C:7]([H:9])[H:10])[H:8]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:5](=[C:6]=[C:7]([H:9])[H:10])[H:8],85.772
[C:13](=[S:14])[H:15].[S:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7]>>[H:7][C:13](=[S:14])[H:15].[S:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],0.8368
[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9].[O:22][O:23]>>[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])[H:14])([H:8])[H:9].[H:13][O:22][O:23],162.71576
